US08193207B2
A mixture of 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one (20 mg, 0.00008 mol), 2,3-dichloropyridine (15.0 mg, 0.000102 mol) and N,N-diisopropylethylamine (44 μL, 0.00025 mol) in N-methylpyrrolidin-2-one (1.0 mL) was irradiated under microwave at 200° C. for 15 min. The mixture was adjusted acidic (pH to −2.0) with trifluoroacetic acid (TFA), and was diluted with methanol (0.8 mL). The resulting solution was purified by Prep-HPLC to give 8-(3-chloropyridin-2-yl)-2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one. LCMS: (M+H)+=348.20/350.20.

reactant | 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one | 0.00008 mol, 20 mg | C1(CCCCC1)N1C(C2(CC1)CCNCC2)=O | C14H24N2O
reactant | 2,3-dichloropyridine | 0.000102 mol, 15.0 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | N,N-diisopropylethylamine | 0.00025 mol, 44 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N-methylpyrrolidin-2-one | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 0.8 mL | CO | CH4O
product | 8-(3-chloropyridin-2-yl)-2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one | ClC=1C(=NC=CC1)N1CCC2(CCN(C2=O)C2CCCCC2)CC1 | C19H26ClN3O
